US07456164B2
To a stirred suspension of LiAlH4 (79 g, 2.08 mol, 5 eq) in THF (900 ml) at 0 to 5° C. under an atmosphere of nitrogen was added 4-(4-methoxyphenyl)-tetrahydro-2H-pyran-4-carbonitrile (90 g, 0.414 mol) in THF (900 ml) over a 25 minutes maintaining the temperature at 5 to 10° C. The reaction mixture was allowed to warm to ambient temperature and stirred until complete. Sodium hydroxide (2N, 850 ml) was added dropwise, the resulting solids filtered and washed with THF (2×800 ml), the organics concentrated in vacuo at 40° C. The residue was dissolved in EtOAc (300 ml) and dried over MgSO4, filtered and concentrated in vacuo at 40° C. to provide {[4-(4-methoxyphenyl)-tetrahydro-2H-pyran-4-yl]methyl}amine as a light yellow oil (92 g, quantitative).

reactant | LiAlH4 | 2.08 mol, 79 g, 5 eq | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-(4-methoxyphenyl)-tetrahydro-2H-pyran-4-carbonitrile | 0.414 mol, 90 g | COC1=CC=C(C=C1)C1(CCOCC1)C#N | C13H15NO2
reactant | Sodium hydroxide | 2N, 850 ml | [OH-].[Na+]
solvent | THF | 900 ml | C1CCOC1 | C4H8O
solvent | THF | 900 ml | C1CCOC1 | C4H8O
product | {[4-(4-methoxyphenyl)-tetrahydro-2H-pyran-4-yl]methyl}amine | COC1=CC=C(C=C1)C1(CCOCC1)CN | C13H19NO2
